US07265246B2
Cool a mixture of phthalimide (5.4 g, 37 mmol) and PPh3 (9.6 g, 37 mmol) in tetrahydrofuran (80 mL) to 0° C. Add dropwise a solution of 3-pyridine propanol (5.0 g, 37 mmol) and diethyl azodicarboxylate (5.8 mL, 37 mmol) in tetrahydrofuran (50 mL). After 2 hours, dilute the reaction mixture with methylene chloride (100 mL), and water (100 mL). Wash the organic layer with water (100 mL), then brine (100 mL). Dry over magnesium sulfate, filter and concentrate to afford 2-(3-pyridin-3-yl-propyl)isoindole-1,3-dione as a yellow solid which can be used without further purification.

reactant | phthalimide | 37 mmol, 5.4 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | PPh3 | 37 mmol, 9.6 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | 3-pyridine propanol | 37 mmol, 5.0 g | N1=CC(=CC=C1)CCCO | C8H11NO
reactant | diethyl azodicarboxylate | 37 mmol, 5.8 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 80 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | water | 100 mL | O | H2O
product | 2-(3-pyridin-3-yl-propyl)isoindole-1,3-dione | N1=CC(=CC=C1)CCCN1C(C2=CC=CC=C2C1=O)=O | C16H14N2O2
